US05011932
Preparation of 3-nitro-1-naphthalenecarboxylic acid [1-(4-pyridinyl)ethylidene]hydrazide, Compound 342
A mixture of 5.0 gm of (0.0216 mole) of 3-nitro-1-naphthalenecarboxylic acid hydrazide, 2.62 gm (0.0216 mole) of 4-acetylpyridine, 400 ml of ethanol, 100 ml of tetrahydrofuran, and 20 drops of glacial acetic acid was refluxed 10 hr. The hot solution was filtered. The filtrate was cooled to room temperature and then chilled. The product was collected, washed with Skellysolve B and dried to furnish 6.31 gm (87%) of the title compound having a melting point of 228.5° C.

reactant | 3-nitro-1-naphthalenecarboxylic acid hydrazide | 0.0216 mole, 5.0 gm | [N+](=O)([O-])C=1C=C(C2=CC=CC=C2C1)C(=O)NN | C11H9N3O3
reactant | 4-acetylpyridine | 0.0216 mole, 2.62 gm | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | ethanol | 400 ml | C(C)O | C2H6O
catalyst | acetic acid | 20 drops | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-nitro-1-naphthalenecarboxylic acid [1-(4-pyridinyl)ethylidene]hydrazide | 6.31 gm, 87% | N1=CC=C(C=C1)C(C)=NNC(=O)C1=CC(=CC2=CC=CC=C12)[N+](=O)[O-] | C18H14N4O3
